US04704459
In 12 ml of N,N-dimethylformamide were suspended 400 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-phenylthio-1,8-naphthyridine-3-carboxylate and 380 mg of anhydrous piperazine, and the resulting suspension was subjected to reaction at 95° to 100° C. for 6 hours. Subsequently, the solvent was removed by distillation under reduced pressure, and to the residue thus obtained were added 10 ml of ethyl acetate and 30 ml of water, after which the pH thereof was adjusted to 0.5 with 6N hydrochloric acid. The aqueous layer was separated and 30 ml of ethyl acetate was added thereto, after which the pH thereof was adjusted to 9.0 with a 10% by weight aqueous potassium carbonate solution. The organic layer was separated, and the aqueous layer was extracted with two 20-ml portions of ethyl acetate, after which the extracts were combined with the organic layer. The combined layer was washed with 20 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 5 ml of diethyl ether, after which crystals were collected by filtration to obtain 230 mg (yield 60.7%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 65.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-phenylthio-1,8-naphthyridine-3-carboxylate | 400 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)SC1=CC=CC=C1)F)=O)C(=O)OCC | C23H15F3N2O3S
reactant | piperazine | 380 mg | N1CCNCC1 | C4H10N2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylate | 230 mg, yield 60.7% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)OCC | C21H19F3N4O3
